US06689806B1
A mixture of 4-[2-(4-isopropyl-phenoxy)-ethyl]-1,3-dihydro-indol-2-one (118 mg, 0.4 mmol), 4-carboxyethyl-3,5-dimethyl-2-formylpyrrole (78 mg, 0.4 mmol) and piperidine (0.3 mL) in 1.0 mL of ethanol was heated in a sealed tube at 90° C. for 18 hours and cooled to room temperature. The reaction mixture was concentrated and the residue was dissolved in methylene chloride followed by the addition of diethyl ether. The precipitate was filtered and washed with ethyl acetate to give 110 mg (58%) of 3-(5-{4-[2-(4-isopropyl-phenoxy)-ethyl]-2-oxo-1,2-dihydro-indol-3-ylidenemethyl}-2,4-dimethyl-1H-pyrrol-3-yl)-propionic acid (piperidine salt).

reactant | 4-[2-(4-isopropyl-phenoxy)-ethyl]-1,3-dihydro-indol-2-one | 0.4 mmol, 118 mg | C(C)(C)C1=CC=C(OCCC2=C3CC(NC3=CC=C2)=O)C=C1 | C19H21NO2
reactant | 4-carboxyethyl-3,5-dimethyl-2-formylpyrrole | 0.4 mmol, 78 mg | C(=O)(O)CCC=1C(=C(NC1C)C=O)C | C10H13NO3
reactant | piperidine | 0.3 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | 3-(5-{4-[2-(4-isopropyl-phenoxy)-ethyl]-2-oxo-1,2-dihydro-indol-3-ylidenemethyl}-2,4-dimethyl-1H-pyrrol-3-yl)-propionic acid | 110 mg, 58% | C(C)(C)C1=CC=C(OCCC2=C3C(C(NC3=CC=C2)=O)=CC2=C(C(=C(N2)C)CCC(=O)O)C)C=C1 | C29H32N2O4
